US06956053B2
Step b. 5-(Adamantan-1-yloxymethyl)-4bromo-2-cyclohexyl-1-methyl-1,2-dihydropyrazol-3-one
The compound was prepared by treating 5-(adamantan-1-yloxymethyl)-4-bromo-2-cyclohexyl-1,2-dihydro-pyrazol-3-one with sodium hydride and methyl iodide as outlined in Reaction Scheme 5.

reactant | 5-(adamantan-1-yloxymethyl)-4-bromo-2-cyclohexyl-1,2-dihydro-pyrazol-3-one | C12(CC3CC(CC(C1)C3)C2)OCC2=C(C(N(N2)C2CCCCC2)=O)Br | C20H29BrN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
product | 5-(Adamantan-1-yloxymethyl)-4bromo-2-cyclohexyl-1-methyl-1,2-dihydropyrazol-3-one | C12(CC3CC(CC(C1)C3)C2)OCC2=C(C(N(N2C)C2CCCCC2)=O)Br | C21H31BrN2O2
